US06046232
Synthesis of α-(4Ethoxyphenyl)-N-isopropylnitrone
The title compound was prepared according to the procedure described in Example 11 using 4-ethoxybenzaldehyde and N-isopropylhydroxylamine. The title compound was isolated in 41.2% yield as a solid, m.p. 115.1 ° C.

reactant | 4-ethoxybenzaldehyde | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | N-isopropylhydroxylamine | C(C)(C)NO | C3H9NO
product | α-(4Ethoxyphenyl)-N-isopropylnitrone | C(C)OC1=CC=C(C=C1)C=[N+]([O-])C(C)C | C12H17NO2
